US09388176B2
Ethyl 3-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)benzoate
A mixture of 1,2,3,4-tetrahydro-2,7-naphthyridine dihydrochloride (41.4 mg, 0.20 mmol), cesium carbonate (326 mg, 1.0 mmol), and triethylamine (0.056 mL, 0.40 mmol) in 2.0 mL dioxane was warmed until the amine starting material had dissolved. The reaction filtrate was transferred into another reaction vial and the following added: a spatula portion of cesium carbonate, ethyl 3-bromobenzoate (0.032 mL, 0.20 mmol), palladium acetate (2.2 mg, 0.01 mmol) plus catalytic Pd2(dba)3, and RAC-BINAP (6.2 mg, 0.01 mmol). The reaction was heated at 95° C. for 17 hours, filtered, and evaporated to an oil. The oil was chromatograph eluting with CHCl3/EtOAc to give the title compound as a light yellow oil (3.2 mg, 6%). 1H NMR (CDCl3) δ: 8.46 (s, 1H), 8.39 (d, J=5.0 Hz, 1H), 7.66 (dd, J=2.3, 1.5 Hz, 1H), 7.54 (dt, J=7.5, 1.2 Hz, 1H), 7.35 (t, J=7.9 Hz, 1H), 7.16 (dd, J=8.4, 1.9 Hz, 1H), 7.12 (d, J=5.0 Hz, 1H), 4.46 (s, 2H), 4.39 (q, J=7.1 Hz, 2H), 3.62 (t, J=5.9 Hz, 2H), 3.01 (t, J=5.7 Hz, 2H), 1.38-1.44 (m, 3H).

reactant | 1,2,3,4-tetrahydro-2,7-naphthyridine dihydrochloride | 0.20 mmol, 41.4 mg | Cl.Cl.C1NCCC2=CC=NC=C12
reactant | cesium carbonate | 1.0 mmol, 326 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | triethylamine | 0.40 mmol, 0.056 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 3-bromobenzoate | 0.20 mmol, 0.032 mL | BrC=1C=C(C(=O)OCC)C=CC1 | C9H9BrO2
reactant | RAC-BINAP | 0.01 mmol, 6.2 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.01 mmol, 2.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Ethyl 3-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)benzoate | 3.2 mg, 6% | C1N(CCC2=CC=NC=C12)C=1C=C(C(=O)OCC)C=CC1 | C17H18N2O2
